US09260375B2
To a solution of 3-(4-hydroxyphenyl)propionic acid (1.49 g, 8.96 mmol) in dimethylformamide (21.5 mL) were added potassium carbonate (1.30 g, 9.41 mmol) and benzyl bromide (1.69 g, 9.86 mmol), and the mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with toluene and water to separate the phases. The residue obtained by concentrating the organic layer under reduced pressure was subjected to silica gel column chromatography (hexane-ethyl acetate 5:1→3:1) to give 2.16 g of benzyl 3-(4-hydroxyphenyl)propionate as oil (yield: 94%).

reactant | 3-(4-hydroxyphenyl)propionic acid | 8.96 mmol, 1.49 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | potassium carbonate | 9.41 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 9.86 mmol, 1.69 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 21.5 mL | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | benzyl 3-(4-hydroxyphenyl)propionate | 2.16 g, yield: 94% | OC1=CC=C(C=C1)CCC(=O)OCC1=CC=CC=C1 | C16H16O3
